US06284785B1
(RS)-2-(4-Chloro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine
The title compound, white solid, m.p. 121° C. and MS: m/e=335 (M+) was prepared in accordance with the general method of example 1e from (RS)-2-(4-chloro-phenyl)-pyrrolidine and toluene-4-sulfonyl chloride.

reactant | (RS)-2-(4-chloro-phenyl)-pyrrolidine | ClC1=CC=C(C=C1)C1NCCC1 | C10H12ClN
reactant | toluene-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | (RS)-2-(4-Chloro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine | ClC1=CC=C(C=C1)C1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H18ClNO2S
